Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year-old male with history of Crohn's 
disease presenting with abdominal pain, diarrhea, and nausea.

Patient established care with a new gastroenterologist at ___ 2 
weeks ago and recently restarted Pentasa (was in non-medicated 
remission for the past ___ years based on advice of GI in 
___ after upper endoscopy and colonoscopy) in the 
setting of a return of symptoms starting early ___ 
including fatigue, intermittent/crampy lower abdominal pain and 
constipation that then transitioned into up to ___ loose/formed 
stools daily usually 2 hrs after eating. He also noted new 
onset, atraumatic L hip and L knee pain 3 weeks ago that lasted 
for ___ weeks and made walking difficult but that pain has 
since resolved. ESR was elevated to 44 and CRP to 97.1 on 
___. Prior to that, he was on Pentasa 750mg TID since 
diagnosis at ___ years old. He has never required steroids or 
immune modulatory agents. 

___ morning had one episode of emesis of small 
amount of bright red globules of blood and was referred to 
urgent care clinic by his new gastroenterologist on ___. 
Blood work done at that time was normal, and he was restarted on 
Omeprazole 40 mg. GI was planning for MR enterography, but was 
unable to get it done due to insurance issues. 

He is having generalized abdominal pain (currently feels 
epigastric and lower abdominal pain most) and variable nausea. 
He has been limiting PO intake due to symptoms and reports 
weight loss of 7 lbs (180 to 173 lbs) over the last 1.5 months.

Denies fevers, visual changes, chest pain, dyspnea, 
hematochezia, melena, dysuria, hematuria. He reports joint pain 
that was worse two weeks ago and reports night sweats.

He would estimate this is the ___ flare since his diagnosis was 
made. He does not know what may have triggered this flare but in 
the past his triggers have been ibuprofen and aspirin use.

In the ED, initial vital signs were: T97.7, HR76, BP 112/79, 
RR19, SaO2 100% on RA
- Exam notable for: epigastric and lower abdominal pain 
- Labs were notable for: CRP 128.6, plts 492, INR 1.2 ___ 13.1)
- Studies performed include: MR ___  
- Patient was given: PO Mesalamine 750 mg, PO Omeprazole 40 mg 
- Vitals on transfer:  T98.5 P87 BP116/70 RR18 SaO2 99% RA  

Upon arrival to the floor, the patient is resting comfortably. 
He continues to have some nausea as well as epigastric and lower 
abdominal discomfort but is in no visible discomfort/pain.
 
Past Medical History:
- Crohns disease
- Prothrombin A gene mutation (previously taking ASA 81)
- Migraine headaches
 
Social History:
___
Family History:
-h/o autoimmune conditions: MS ___ uncle), SLE (maternal 
great grandmother)
-MGM - died at ___ from unknown cancer
-Prothrombin A gene mutation on father's side
-no h/o IBD, GI cancers
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=================
Vitals- T 98.1F, HR 72, BP 114/73, RR 18, SaO2 98% on RA
GENERAL: NAD, resting comfortably, A&Ox3
HEENT: EOMI, visual fields full to confrontation, moist MM, 
clear oropharynx
NECK: supple, FROM
CARDIAC: RRR, nl S1/S2, no murmurs
LUNGS: CTAB, normal work of breathing
ABDOMEN: soft, NT/ND, +BS, tenderness to palpation in 
epigastrium, lower abdomen at midline and RLQ, no 
guarding/rebound tenderness
EXTREMITIES: WWP
SKIN: no rashes
NEUROLOGIC: CN II-XII grossly intact, full strength and 
sensation in all extremities

DISCHARGE PHYSICAL EXAM
=================
Vitals: 97.9  101/63-123/71 67 18 96%RA
GENERAL: NAD, resting comfortably, A&Ox3
HEENT: EOMI, visual fields full to confrontation, moist MM, 
clear oropharynx
NECK: supple, FROM
CARDIAC: RRR, nl S1/S2, no murmurs
LUNGS: CTAB, normal work of breathing
ABDOMEN: soft, NT/ND, +BS, minimal tenderness to palpation in 
epigastrium, lower abdomen at midline and RLQ improved from 
prior. Mild tenderness in LLQ. no guarding/rebound tenderness
EXTREMITIES: WWP
SKIN: no rashes
NEUROLOGIC: CN II-XII grossly intact, full strength and 
sensation in all extremities
 
Pertinent Results:
ADMISSION LABS
===========
___ 08:52PM BLOOD WBC-9.3 RBC-5.28 Hgb-13.7 Hct-42.6 
MCV-81* MCH-25.9* MCHC-32.2 RDW-11.7 RDWSD-33.7* Plt ___
___ 08:52PM BLOOD Neuts-66.1 Lymphs-17.2* Monos-11.8 
Eos-4.1 Baso-0.4 Im ___ AbsNeut-6.13* AbsLymp-1.59 
AbsMono-1.09* AbsEos-0.38 AbsBaso-0.04
___ 08:52PM BLOOD ___ PTT-36.0 ___
___ 08:52PM BLOOD Glucose-93 UreaN-10 Creat-0.9 Na-139 
K-4.1 Cl-100 HCO3-24 AnGap-19
___ 08:52PM BLOOD Albumin-3.7
___ 08:52PM BLOOD CRP-128.6*
___ 09:00PM BLOOD Lactate-1.2
___ 08:59PM BLOOD SED RATE-19 

NOTABLE LABS
=========
___ 07:50AM BLOOD WBC-11.0* RBC-5.00 Hgb-13.0* Hct-40.2 
MCV-80* MCH-26.0 MCHC-32.3 RDW-11.8 RDWSD-33.9* Plt ___
___ 07:50AM BLOOD Neuts-79.6* Lymphs-10.7* Monos-9.3 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-8.90* AbsLymp-1.20 
AbsMono-1.04* AbsEos-0.00* AbsBaso-0.01
___ 07:20AM BLOOD Glucose-136* UreaN-12 Creat-0.7 Na-138 
K-4.9 Cl-101 HCO3-21* AnGap-21*
___ 07:20AM BLOOD Calcium-10.0 Phos-5.8* Mg-2.3
___ 07:20AM BLOOD CRP-126.2*
___ 07:50AM BLOOD CRP-63.4*
___ 07:25AM BLOOD CRP-30.5*
___ 07:20AM BLOOD CRP-12.5*
___ 07:20AM BLOOD HIV Ab-Negative

MICROBIOLOGY
=========
C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay

FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 
CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND.

IMAGING
======
___ 
MR ENTEROGRAPHY:
Approximately 10 cm of terminal ileum shows wall thickening with 
edema and
abnormal mucosal enhancement without convincing evidence of 
transmural
enhancement.  Patchy involvement of the bowel 5-10 cm proximal 
to this segment in the terminal ileum is also present to a 
lesser degree with few areas of focal mucosal thickening and 
abnormal enhancement predominantly along the mesenteric side of 
the small-bowel; other areas in this segment show increased 
enhancement without wall thickening.
Cecum, ascending colon, and transverse colon to the splenic 
flexure
demonstrate wall thickening with edema and abnormal mucosal 
enhancement
without evidence of transmural enhancement.  Disease is most 
advanced in the cecum and ascending colon.  In the descending 
colon and sigmoid colon there are patchy areas which show lesser 
degrees of involvement.
The affected segments of bowel show multiple prominent 
mesenteric lymph nodes and fibrofatty mesenteric changes with 
vascular engorgement.  No mesenteritis. No obstruction or 
stenosis. No fistula. No collection. The rectum is spared.
MRI OF THE ABDOMEN WITH AND WITHOUT IV CONTRAST:
Visualized Liver: Visualized parenchyma is normal in signal and 
enhancement. No solid mass.
Biliary: There is no intrahepatic bile duct dilation. Common 
bile duct is notdilated. Gallbladder wall is normal thickness. 
No pericholecystic fluid. No gallstone.Pancreas: Normal in size. 
Parenchyma is normal in signal and enhancement. Main pancreatic 
duct is not dilated. .
Spleen: Normal in size, signal, and enhancement.
Adrenal Glands: Normal in size, signal, and enhancement. No 
nodularity.
Kidneys: No hydronephrosis. Normal in size, signal, and 
enhancement. No solid mass.
Lymph Nodes: No enlarged pelvic or retroperitoneal lymph node.
Vasculature: Aorta and iliac arteries are of normal caliber.
Osseous and Soft Tissue Structures: No mass. Normal bone marrow 
signal.
MRI OF THE PELVIS WITH AND WITHOUT IV CONTRAST:
No pelvic mass. Normal bladder.
Grossly normal prostate and seminal vesicles.
  
IMPRESSION: 
Contiguous active inflammation involving the distal 10 cm of 
terminal ileum
and the colon from cecum through the splenic flexure without 
evidence of
transmural enhancement.  There is patchy lesser involvement 
affecting 5-10 cm of ileum adjacent to the affected segment as 
well as the descending and
sigmoid colon.  The rectum is spared.
No obstruction or stenosis. No fistula. No collection.

DISCHARGE LABS
===========
___ 07:20AM BLOOD WBC-13.0* RBC-5.06 Hgb-13.4* Hct-41.8 
MCV-83 MCH-26.5 MCHC-32.1 RDW-12.1 RDWSD-36.0 Plt ___
___ 07:20AM BLOOD Glucose-111* UreaN-18 Creat-0.9 Na-137 
K-5.3* Cl-98 HCO3-25 AnGap-19
___ 07:20AM BLOOD Calcium-9.7 Phos-5.2* Mg-2.2
 
Brief Hospital Course:
___ is a ___ year-old male with history of Crohn's 
disease including 2 prior flares who presented with abdominal 
pain, diarrhea, nausea, emesis, and 7 lb weight loss admitted 
for expedited Crohn's flare work-up. He was started on IV 
methylprednisolone with which his CRP improved. He was 
discharged with oral prednisone with plan for a slow taper to be 
determined by his outpatient gastroenterologist. He was started 
on Bactrim prophylaxis while on high dose prednisone.

ACTIVE ISSUES
=============
#Crohn's Disease flare:
Patient presenting with 1 month of vague abdominal discomfort, 1 
week of diarrhea, emesis and nausea, and 7-lb weight loss in the 
setting of poor PO intake. Admission CRP 128.6. C. difficile and 
fecal cultures were negative. MR enterography demonstrates 
active inflammation of terminal ileum and colon through the 
splenic flexure without involvement of the rectum; there is no 
evidence of strictures, obstruction, or perforation. The 
gastroenterology team was consulted and provided 
recommendations. He was started on methylprednisolone 20mg IV 
Q8H on ___ that was continued until ___ when he was 
transitioned to prednisone at 40mg daily. Pentasa was continued 
at 750mg TID, dose confirmed with patient. He was started on 
bactrim prophylaxis on ___. His CRP improved on ___ but he had 
persistent intermittent abdominal pain. CRP downtrended. On 
discharge CRP was 12.5. Hepatitis serologies had been obtained 
as an outpatient on ___ and showed HAV nonimmunized, HBV 
Immunized, HCV not exposed. HIV was negative. TB quant gold was 
negative on ___. He was continued on heparin subcutaneous 
prophylaxis and encouraged to ambulate during his stay.

#Thrombocytosis
Plt count 492 on admission ___ with increase to 509 on ___. 
Likely reactive in setting of Crohn's flare (with CRP elevated). 
He will need to follow up with CBC as outpatient to ensure 
resolution as Crohn's symptoms improve. Discharge platelet count 
481.

#Leukocytosis
WBC to 11 on ___ in the setting of methylprednisolone. He has 
no urinary symptoms, respiratory symptoms or rash. No fevers. 
Discharge white blood cell count 13.

#AG Metabolic Acidosis
AG of 16 on ___. Lactate 1.2 on ___. Etiology unclear. may be 
linked to Pentasa and mild volume depletion given poor PO intake 
in setting of Crohn's with bicarbonate loss with diarrhea. 
Improved with PO intake.

CHRONIC ISSUES
==========
#Prothrombin A gene mutation: held ASA 81 as the patient was not 
taking this at home. Maintaind on DVT ppx with subQ heparin.

TRANSITIONAL ISSUES
==============
#NEW MEDICATIONS
 - PredniSONE 40 mg PO DAILY 
 - Multivitamins 1 TAB PO DAILY 
 - Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
#CHANGED MEDICATIONS
 - None
#STOPPED MEDICATIONS
 - None, patient is not taking aspirin 81mg

[] Discuss prednisone dosing and taper plan with outpatient 
gastroenterologist
[] Discuss additional therapeutics including anti-TNF with 
outpatient gastroenterologist and timing of colonoscopy.
[] Discuss duration of bactrim prophylaxis with outpatient 
gastroenterologist
[] Avoid NSAIDs
[] Follow up CBC as outpatient when Crohn's flare improves to 
assess for resolution of thrombocytosis
[] Discuss whether patient should be taking aspirin 81mg for 
prothrombin gene mutation

#Contact: ___ (mother) (___), Page (finace) 
___
#Code status: Full code (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Sumatriptan Succinate 50-100 mg PO ONCE MR1 
3. Omeprazole 40 mg PO DAILY 
4. Mesalamine 750 mg PO TID 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*1 
2.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth Daily Disp #*40 Tablet 
Refills:*0 
3.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth Daily Disp #*30 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
6.  Mesalamine 750 mg PO TID  
7.  Omeprazole 40 mg PO DAILY  
8.  Sumatriptan Succinate 50-100 mg PO ONCE MR1  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Crohn's disease flare 
 
Secondary: 
Prothrombin A gene mutation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ with a Crohn's disease flare. You 
were seen by the GI doctors who recommended ___. The imaging 
showed inflammation in the small bowel and colon caused by 
Crohn's disease.

You were admitted to the medicine service. You were given IV 
steroids and were continued on your home dose of Pentasa. You 
were started on an antibiotic called Bactrim to help prevent 
infections to which you may be susceptible while you are on 
steroids.

Your blood tests showed that the inflammation slowly was getting 
better with steroid treatment while you were in the hospital. It 
is very important that you continue to take these medications as 
prescribed by your GI doctor.

You should continue Prednisone at 40 mg daily until you follow 
up with your GI doctor who will give further recommendations.

If you experience worsening abdominal pain, fevers, chills, 
continued weight loss, vomiting, diarrhea, please call you 
doctor or return to the emergency department.

It was a pleasure taking care of you. We wish you the best in 
your health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___